US07884234B2
(1) Preparation of 4-methyl-1-nitro-3-[4-(trifluoromethoxy)phenoxy]benzene
A mixture of 2-methyl-5-nitrophenol (765 mg, 5.00 mmol), 4-(trifluoromethoxy)benzeneboronic acid (1.24 g, 6.00 mmol), copper(II) acetate (999 mg, 5.50 mmol), triethylamine (3.48 ml, 25.0 mmol), molecular sieves 4A and dichloromethane (20.0 ml) was stirred at room temperature overnight under argon atmosphere. The reaction mixture was filtered through celite. The residue obtained by evaporation of the solvent of the filtrate under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=20:1) to give the title compound (323 mg, 20.6%) as a colorless oil.

reactant | 2-methyl-5-nitrophenol | 5.00 mmol, 765 mg | CC1=C(C=C(C=C1)[N+](=O)[O-])O | C7H7NO3
reactant | 4-(trifluoromethoxy)benzeneboronic acid | 6.00 mmol, 1.24 g | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | triethylamine | 25.0 mmol, 3.48 ml | C(C)N(CC)CC | C6H15N
catalyst | copper(II) acetate | 5.50 mmol, 999 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 20.0 ml | ClCCl | CH2Cl2
product | 4-methyl-1-nitro-3-[4-(trifluoromethoxy)phenoxy]benzene | 323 mg, 20.6% | CC1=C(C=C(C=C1)[N+](=O)[O-])OC1=CC=C(C=C1)OC(F)(F)F | C14H10F3NO4
